US04631286
9-Amino-6-chloro-3,4-dihydroacridin-1(2H)-one
In 200 ml of tetrahydrofuran were combined 5.00 g of 4-chloro-2-(3-oxocyclohexen-1-yl)aminobenzonitrile hydrochloride, 4.88 g (2 eq) milled anhydrous K2CO3, and 0.36 g (0.1 eq) of CuBr (CH3)2S used as a catalyst. The mechanically stirred mixture was refluxed overnight. It was then evaporated to a residue and extracted with several portions of MeOH. The insoluble inorganics were dissolved in water to remove any product not extracted by the MeOH, but none were detected. The MeOH extract was evaporated and the residue was chromatographed on silica gel and then the purified product was recrystallized from EtOAc to yield 2.07 g (47%) of a solid, melting point 285°-287° C.

reactant | 4-chloro-2-(3-oxocyclohexen-1-yl)aminobenzonitrile hydrochloride | 5.00 g | Cl.ClC1=CC(=C(C#N)C=C1)NC1=CC(CCC1)=O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 9-Amino-6-chloro-3,4-dihydroacridin-1(2H)-one | 2.07 g, 47% | NC=1C2=CC=C(C=C2N=C2CCCC(C12)=O)Cl | C13H11ClN2O
